US07053107B2
N-(3-Cyclopropyl-prop-2-ynyl)-2-[3-[2-(4,6-dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide
Was prepared in a similar manner to that described for Example 6 above, except using 2-[3-[2-(4,6-dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid E and 3-Cyclopropyl-prop-2-ynylamine. 1H NMR (CDCl3): δ 9.51 (1H, s), 7.97 (1H, d, J=8.7 Hz), 7.81 (1H, d, J=16.6 Hz), 7.51–7.42 (3H, m), 7.34–7.29 (2H, m), 7.16 (1H, s), 7.11 (1H, dd, J=9.0,1.9 Hz), 6.85 (1H, s), 6.81 (1H, dt, J=7.2, 1.1 Hz), 6.23 (1H, t, J=7.2 Hz), 5.61 (1H, dd, J=9.0, 2.6 Hz), 4.17 (2H, dd, J=5.3, 2.3 Hz), 4.07–4.00 (1H, m), 3.75–3.66 (1H, m), 2.63–2.50 (1H, m), 2.54 (3H, s), 2.32 (3H, s), 2.20–2.02 (2H, m), 1.79–1.62 (3H, m), 1.29–1.19 (1H, m), 0.77–0.67 (4H, m).

reactant | 2-[3-[2-(4,6-dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzoic acid | CC1=CC(=NC(=C1)C)C=CC1=NN(C2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1)C1OCCCC1 | C28H28N4O3
reactant | 3-Cyclopropyl-prop-2-ynylamine | C1(CC1)C#CCN | C6H9N
product | N-(3-Cyclopropyl-prop-2-ynyl)-2-[3-[2-(4,6-dimethyl-pyridin-2-yl)-vinyl]-1-(tetrahydro-pyran-2-yl)-1H-indazol-6-ylamino]-benzamide | C1(CC1)C#CCNC(C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C=CC1=NC(=CC(=C1)C)C)=O | C34H35N5O2
